US07888366B2
To a cooled (15° C.) and stirred solution of tin (II) chloride (0.37 g, 1.65 mmol) and con. hydrochloric acid (2.0 mL) was added a solution of 2-(4-methoxyphenoxymethyl)-6-nitrobenzonitrile (100.0 mg, 0.35 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 3 hours. The reaction mixture was poured on to crushed-ice and potassium hydroxide solution, stirred, extracted with dichloromethane, filtered and dried. Purification by silica gel chromatography (1% methanol in dichloromethane) yielded 65 mg of 2-amino-6-(4-methoxyphenoxymethyl)benzonitrile.

reactant | tin (II) chloride | 1.65 mmol, 0.37 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
reactant | 2-(4-methoxyphenoxymethyl)-6-nitrobenzonitrile | 0.35 mmol, 100.0 mg | COC1=CC=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=C1 | C15H12N2O4
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-6-(4-methoxyphenoxymethyl)benzonitrile | 65 mg | NC1=C(C#N)C(=CC=C1)COC1=CC=C(C=C1)OC | C15H14N2O2
